US09107946B2
A mixture of 3,5-dimethoxybenzenemethanamine (3.34 g, 20 mmol), 4-(4-carboxyphenyl)-1-piperazinecarboxylic acid, 1-(1,1-dimethylethyl) ester (6.13 g, 20 mmol), EDCI (4.2 g, 22 mmol), HOBT (2.97 g, 22 mmol), N(CH2CH3)3 (12 ml) and DCM (80 ml) was stirred overnight at r.t. The solvent was evaporated. The residue was purified by column chromatography (eluent: petroleum ether/EtOAc 2/1). The desired fractions were collected and the solvent was evaporated. Yield: 5.3 g of 4-[4-[[[(3,5-dimethoxyphenyl)methyl]amino]carbonyl]phenyl]-1-piperazinecarboxylic acid, 1,1-dimethylethyl ester (58.24% yield).

reactant | 3,5-dimethoxybenzenemethanamine | 20 mmol, 3.34 g | COC=1C=C(C=C(C1)OC)CN | C9H13NO2
reactant | 4-(4-carboxyphenyl)-1-piperazinecarboxylic acid, 1-(1,1-dimethylethyl) ester | 20 mmol, 6.13 g | C(=O)(O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O4
reactant | EDCI | 22 mmol, 4.2 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 22 mmol, 2.97 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
solvent | N(CH2CH3)3 | 12 ml | N(CC)(CC)CC | C6H15N
product | 4-[4-[[[(3,5-dimethoxyphenyl)methyl]amino]carbonyl]phenyl]-1-piperazinecarboxylic acid, 1,1-dimethylethyl ester | Yield: 5.3 g, 58.24% yield | COC=1C=C(C=C(C1)OC)CNC(=O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C25H33N3O5
